US08541411B2
c) 2-(1-methylethyl)-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-4-nitro-1H-benzimidazole
A mixture of 6-bromo-2-(1-methylethyl)-1-(1-naphthalenylmethyl)-4-nitro-1H-benzimidazole (2.05 g), morpholine (1.26 g), Pd2(dba)3 (0.46 g), Cs2CO3 (2.36 g) and X-Phos (0.41 g) in dioxane (30 mL) was degassed with nitrogen and then stirred at 80° C. overnight. The mixture was cooled to room temperature and the solvent was removed in-vacuo. The residue was then purified by silica gel chromatography eluted with (EtOAc:petroleum ether=1:1) to afford the desired product as a yellow solid (1.6 g, 77%). LC-MS: m/e=431 [M+1]+

reactant | 6-bromo-2-(1-methylethyl)-1-(1-naphthalenylmethyl)-4-nitro-1H-benzimidazole | 2.05 g | BrC=1C=C(C2=C(N(C(=N2)C(C)C)CC2=CC=CC3=CC=CC=C23)C1)[N+](=O)[O-] | C21H18BrN3O2
reactant | morpholine | 1.26 g | N1CCOCC1 | C4H9NO
reactant | Cs2CO3 | 2.36 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | X-Phos | 0.41 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.46 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(1-methylethyl)-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-4-nitro-1H-benzimidazole | 1.6 g, 77% | CC(C)C1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2[N+](=O)[O-])N2CCOCC2 | C25H26N4O3
